Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
amoxicillin / Penicillins
 
Attending: ___.
 
Chief Complaint:
Aneurysm at left internal carotid/left posterior communicating 
artery bifurcation.
 
Major Surgical or Invasive Procedure:
___: pipeline embolization of aneurysm at left internal 
carotid/left posterior communicating artery bifurcation 

 
History of Present Illness:
Ms. ___ is an ___ year old female who was admitted to ___ 
in ___ after a syncopal fall while shopping. She sustained 
T3 & T6 vertebral fractures. She underwent an extensive workup 
during her admission, and brain imaging revealed an incidental 
2.4 x 1.5 cm left internal carotid aneurysm arising at the 
bifurcation of the posterior communicating artery. She follow-ed 
up with Dr. ___ in outpatient clinic, at which time it was 
determined that she will undergo elective pipeline embolization 
of aneurysm at left internal carotid/left posterior 
communicating artery bifurcation. 

 
Past Medical History:
L breast cancer with mets to LN s/p chemoXRT and lumpectomy ___
Hypertension 
Hyperlipidemia
 
Social History:
___
Family History:
No family history of aneurysms.
 
Physical Exam:
PHYSICAL EXAMINATION ON DISCHARGE:

PHYSICAL EXAM:

Gen: WD/WN, comfortable, NAD.

HEENT: 
Pupils: PERRL ___         
EOMs: Intact

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3mm 
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

Groin soft and without hematoma. 
Bilateral femoral pulses present 
Bilateral dorsal and posterior tibialis pulses present

 
Pertinent Results:
___ - Coiling of Cerebral Aneurysm:
IMPRESSION: 
1. Successful primary coiling of a giant left PCOM aneurysm 
compatible with ___ grade 2 
  
RECOMMENDATION(S): 
1. Continue on aspirin and follow-up as per usual protocol. 

___ - CTA Head and Neck: 
RECOMMENDATION(S): 
1. Consider further evaluation of probable infarct with MR of 
the head. 
2. Consider further evaluation of the hemopericardium and 
mediastinal hematoma with chest CTA. 
3. Though intracranial hemorrhage is not definitively excluded, 
this can be investigated with follow-up noncontrast head CT. 

___ - ECHO:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Mild 
symmetric left ventricular hypertrophy with normal cavity size, 
and regional/global systolic function (biplane LVEF = 61 %). 
There is mild (non-obstructive) focal hypertrophy of the basal 
septum. The estimated cardiac index is normal (>=2.5L/min/m2). 
Doppler parameters are indeterminate for left ventricular 
diastolic function. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Physiologic mitral regurgitation is seen (within 
normal limits). There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

___ -  Chest X-Ray:
Compared to chest radiographs ___ 
Cardiac silhouette is substantially larger due to progressive 
cardiomegaly and likely pericardial effusion.  Mild mediastinal 
widening is due to distension of mediastinal veins, reflecting 
increase in right heart filling pressure.  Tamponade to be 
excluded clinically.  Combination of moderate bilateral pleural 
effusion and substantial bibasilar atelectasis, perhaps 
bilateral lower lobe collapse, is new.  There is no pulmonary 
edema. 
RECOMMENDATION(S):  Echocardiography to evaluate pericardium and 
heart. 

___ -  CTA Chest:
1.  Mediastinal hematoma has mildly decreased since ___.  
Hemorrhagic pleural effusions have mildly increased.  There is 
small 
hemorrhagic pericardial effusion.  Images of the ascending aorta 
are 
moderately compromised by motion.  No definite evidence for 
dissection or 
pulmonary embolism.  If there is high index of suspicion for 
aortic injury, catheter angiogram would be helpful. 
2.  Acute left rib fractures again noted.  Worsened T3 
compression fracture. 

___ - CT Head without Contrast:
1. Left PCOM aneurysm coil mass streak artifact and motion 
moderately limits examination. 
2. Within limits of study, no evidence of intracranial 
hemorrhage. 
3. Grossly stable punctate bihemispheric sulcal and 
intraventricular fat.  
Question history of ruptured dermoid or epidermoid tumor versus 
multiple small lipomas. 
4. Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 

___ - Chest X-Ray:
Heart size is enlarged.  Mediastinum is overall unchanged 
although mildly 
enlarged most likely due to a adjacent area of atelectasis.  
Large bilateral pleural effusions are unchanged.  There is no 
pneumothorax. 

___ - CTA Torso:
1. Superior mediastinal hematoma, without evidence for active 
extravasation, 
not significantly changed. 
2. High-density, moderate size pleural effusions, not 
significantly changed, 
likely representing hemothorax. 
3. Bilateral rib fractures again noted. 
4. Compression deformities of T3 and T5. 
5. No retroperitoneal hematoma. 
6. Large cystic lesion, likely arising from the left ovary, 
predominately 
simple, with peripheral calcification. 
7. Fluid in the endometrial canal, abnormal, given the patient's 
age. 
8. Diverticulosis. 
  
RECOMMENDATION(S): Nonurgent pelvic ultrasound is recommended 
for further 
evaluation of the cystic left adnexal lesion, and fluid in the 
endometrial 
canal. 

___ Chest X-Ray:
Cardiomegaly is substantial associated with bilateral pleural 
effusions which a large but appear to be slightly decreased 
since the prior study.  There is mild vascular congestion.  
There is no pneumothorax. 

___ CT Head without Contrast:
1. No notable interval change. Patient is post left PCOM 
aneurysm coiling. 
2. Unchanged bihemispheric sulcal intraventricular fat my 
reflect previously ruptured dermoid or multiple small lipomas. 

___ CTA Chest:
IMPRESSION:  
1. No acute pulmonary embolus or aortic abnormality. 
2. Persistent moderate bilateral right greater than left 
hemorrhagic pleural effusions was slight interval decrease in 
size on the right and mild bilateral relaxation atelectasis. 
3. Stranding and high density within the anterior mediastinum 
extending into the supraclavicular space is similar to the prior 
exam on ___ but markedly improved since ___. 
4. Unchanged mediastinal lymph nodes measuring up to 1 cm, 
likely reactive. 
5. Unchanged bilateral rib fractures including multiple 
contiguous mildly 
displaced fractures in the left lateral ribs. 
6. Unchanged appearance of the thoracic spine including omental 
compression fractures and sclerosis of the T3 vertebral body. 
7. Small hiatal hernia. 

 
Brief Hospital Course:
On ___, the patient was electively admitted for a pipeline 
embolization of an aneurysm at left internal carotid/left 
posterior communicating artery bifurcation. She underwent this 
procedure with Dr. ___ without complication. She was 
transferred from the procedure suite to the PACU for 
post-procedure care and observation. She was later transferred 
to the ___ for close monitoring. Overnight, the patient had 
several episodes of transient aphasia noted to occur when she 
was hypotensive. She received multiple fluid boluses with good 
response. 

On ___, the patient's neurologic status remained stable. Her 
potassium was repleted. The arterial line and foley catheter 
were discontinued. During the morning, she was noted to have low 
O2 saturation levels which ranged in the high ___ and low ___ 
and requiring 2L of O2 NC which was a new requirement for her. A 
Chest x-ray was ordered and noted to be concerning for 
cardiomegaly, pericardial effusion. An ECHO was ordered which 
was negative for pericardial effusion. She was evaluated by the 
nurse practitioner in CT surgery who recommended a CTA of the 
chest for better evaluation. 

On ___, the patient remained neurologically stable on 
examination. Overnight, she experienced a change in mental 
status and underwent a STAT CT of the head which was stable. She 
also underwent STAT labs which showed a drop in her hematocrit 
and hemoglobin. She also underwent a STAT CT/CTA of the chest 
which was stable but showed a slight enlargement of the 
bilateral pleural effusions. She was transferred to the ___ 
for close monitoring. She received a blood transfusion. 

On ___, the patient became tachypnic and increased shortness of 
breath as well as altered mental status in the morning. She was 
also noted to have a drop in her Hct. She underwent a CT head 
which was negative as well as a CTA torso which was stable. Her 
neurologic status returned to its baseline later in the morning. 


On ___, the patient remained hemodynamically and neurologically 
stable. Her H&H was up trending and her blood pressure goals 
remained 100-120. Her white blood cell count was down trending.

On ___, patient remains neurologically stable. Given blood 
pressure goals are 100-120, Norvasc was added to patients 
regimen. 

___, patient remains neurologically stable. Norvasc increased 
to maximum dose to control blood pressure. Medicine consulted 
for assistance in medication management. 

On ___, patient remains neurologically stable. Blood pressure 
controlled with titration of medications, physical therapy 
working with the patient. 

On ___, the patient's morning systolic blood pressure was up to 
140mmHg but improved after her morning medications.  Her 
neurological exam remained stable.  She was transferred to the 
floor.

On ___, the patient remained neurologically stable. She was 
deemed safe and ready for discharge to home with visiting 
nursing services for close blood pressure monitoring. Her PCP 
was contacted and she was discharged with instruction to 
follow-up closely with her PCP for blood pressure medication 
titration. 

 
Medications on Admission:
enalapril 40mg qAM 
atenolol 50mg daily
amlodipine 10mg daily 
vitamin D 1000 daily 
Aspirin 81mg daily 
Brillinta 90mg BID 
 
Discharge Medications:
1.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Senna 17.2 mg PO QHS  
5.  Atenolol 100 mg PO DAILY 
RX *atenolol 100 mg 1 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
6.  amLODIPine 10 mg PO DAILY  
7.  Enalapril Maleate 20 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aneurysm at bifurcation of left internal carotid/left posterior 
communicating artery  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires occasional assistance 

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___